Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Prilosec
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/ hx of CAD, atrial fibrillation presenting for altered 
mental status. Patient was at independent living and noted to be 
confused today. Per the family's history (at bedside), he is 
usually alert and oriented and very eloquent. Today was mildly 
confused per manager at the ___ living and his daughter who 
lives in ___. EMS on rout was concerned for STEMI, 
despite the patient denying any chest pain or shortness of 
breath. He has been evaluated for CAD in the past with a cardiac 
catheterization, per the patient, however in recent note from 
Dr. ___ CAD history was noted.  
 Of note, the patient saw Dr. ___ in ___ because of 
his Atrial fibrillation and tachy-brady syndrome. Discussion was 
had regarding pacemaker but the patient did not feel strongly 
and Dr. ___ felt that it would not improve his quality of life 
significantly.  
 In the ED, initial vitals: 97.6 58 131/68 18 98% RA  
 - Exam notable for: Unremarkable  
 - Labs notable for: lactate 1.8, trop negative x1, creatinine 
1.4 (baseline 1.2), LFT's wnl, CBC wnl, chem 7 otherwise wnl, 
INR 1.6, UA wnl.  
 - ECG showing known LBBB with expected strain pattern, 
otherwise NSR  
 - Imaging notable for: CT head with motion abnormality but no 
evidence of acuteintracranial abnormality. Enlarged ventricles 
are slightly out of proportion to sulci, may reflect sequela of 
central atrophy. CXR without focal consolidation  
 - Patient given: nothing  
 - Decision was made to admit for altered mental status, ___ 
consult, and  
 - Vitals prior to transfer: 97.6 58 162/72 16 96% RA  
 On arrival to the floor, the patient reports that he feels well 
overall and does not agree with his family and ___ 
___ manager who say he is confused; however he is having 
significant difficulty with word-finding and becomes very 
confused and tangential, which his daughter (at bedside) reports 
is completely new for him. His daughter reports that this is how 
he had been for the last 24 hours and has not changed at all. 
She also reports that he typically has mild slurred speech due 
to a dental plate procedure which is unchanged
 
Past Medical History:
1. Atrial fibrillation on rhythm control  
 2. Long-term anticoagulation on Coumadin  
 3. Hyperlipidemia  
 4. GERD  
 5. BPH  
 6. Tachy-brady, recently evaluated by EP (___) in 
___, decided against pacemaker as patient minimally 
symptomatic. 
 
Social History:
___
Family History:
Reports father died of heart attack in his ___. Mother was 
elderly when she  
 passed, had history of dementia.  
 
Physical Exam:
ADMISSION EXAM:
Vitals: 97.2 PO 156 / 79 65 18 96 RA  
 General: Alert, awake, AOx2 (with difficulty), appearing very 
frustrated and having word finding difficulty, slurred speech 
per baseline  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema  
 Skin: Without rashes or lesions  
 Neuro: A&Ox2 with difficulty. Word finding difficulty. Slight 
droop on L mouth but resolved with smile, no other asymmetry. 
Slurred speech consistent with prior per his daughter. Strength 
___ ___, ___ LLE (baseline per patient), ___ RLE. CN ___ 
otherwise intact  

DISCHARGE EXAM:
 Vitals: 98.6 (98.6) 120s-140s/70s 54-69 18 96 RA  
 General: Awake in bed and talking with nurse. Slurred speech 
per baseline  
 HEENT: Sclera anicteric, MMM, oropharynx clear, neck supple, 
JVP not elevated, no LAD  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Abdomen: Mildly distended and mild tenderness in right lower 
abdomen. Bowel sounds present, no rebound tenderness or 
guarding, no organomegaly  
 Ext: Warm, well perfused, no cyanosis or edema. Right hip has 
some pain at rest, not worsened with palpation. Not radiating 
down leg. No ecchymosis or signs of recent trauma.  
 Skin: Rash in right groin coated in Miconazole. Improving. 
 
Pertinent Results:
ADMISSION LABS:
___ 10:45AM   ___ PTT-23.9* ___
___ 10:45AM   PLT COUNT-196
___ 10:45AM   NEUTS-60.9 ___ MONOS-8.7 EOS-1.7 
BASOS-0.8 IM ___ AbsNeut-3.69 AbsLymp-1.67 AbsMono-0.53 
AbsEos-0.10 AbsBaso-0.05
___ 10:45AM   WBC-6.1 RBC-5.07 HGB-15.1 HCT-45.7 MCV-90 
MCH-29.8 MCHC-33.0 RDW-12.9 RDWSD-42.3
___ 10:45AM   ALBUMIN-4.5
___ 10:45AM   cTropnT-<0.01
___ 10:45AM   ALT(SGPT)-34 AST(SGOT)-35 ALK PHOS-105 TOT 
BILI-1.2
___ 10:45AM   estGFR-Using this
___ 10:45AM   GLUCOSE-138* UREA N-30* CREAT-1.4* SODIUM-143 
POTASSIUM-4.6 CHLORIDE-103 TOTAL CO2-26 ANION GAP-19
___ 10:51AM   LACTATE-1.8
___ 10:51AM   ___ COMMENTS-GREEN TOP
___ 01:35PM URINE  RBC-<1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-0.2 PH-5.0 LEUK-NEG
___ 01:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:35PM URINE  UHOLD-HOLD
___ 01:35PM URINE  HOURS-RANDOM

IMAGING:
CXR ___
IMPRESSION:  
  
Relatively low lung volumes without focal consolidation.

CT HEAD w/o contrast ___
IMPRESSION:  
  
Allowing for extensive patient motion, there is no evidence of 
acuteintracranial abnormality.  Enlarged ventricles are slightly 
out of 
proportion to sulci, may reflect sequela of central atrophy. 

MRI/MRA BRAIN NECK ___
IMPRESSION: 
  
  
1. Please note, study is degraded by patient motion artifact.  
No hemorrhage 
or acute infarction. 
2. Questionable areas enhancement within the medial left 
thalamus extending 
into the left cerebral peduncle, which may be artifactual given 
the absent 
corresponding findings on other sequences. 
3. No stenosis, occlusion, or aneurysm greater than 3 mm. 
4. Questionable infundibulum versus aneurysm measuring 1-2 mm at 
the right M1 
segment of the middle cerebral artery, without definite 
corresponding findings 
on postcontrast MR images. 
  
RECOMMENDATION(S):  If clinically warranted, correlation with 
CTA of the head 
is recommended for further characterization of the of the right 
M1 segment. 

 

 
Brief Hospital Course:
___ yo male with a history of afib with tachy/brady syndrome, who 
was admitted with an episode of acute encephalopathy, likely due 
to mild acute renal failure.  He underwent neurologic evaluation 
and MRI/MRA brain demonstrated likely artefactual abnormalities. 
 Infectious workup was negative.  He was noted to have gait 
instability worse than baseline, and ___ recommended short term 
rehabilitation.

# Acute metabolic encephalopathy:  
# Gait instability
Patient presented with transient significant disorientation was 
likely a result of poor PO intake, dehydration, and resultant 
acute renal failure.  CT head and MRI/MRA were without evidence 
of hemorrhage or acute infarction.  Infectious workup was 
unrevealing.  Toxicology screen negative.  Underlying dementia 
or pseudodementia are also possibilities, predisposing him to 
significant a significant confusional state in the setting of a 
mild toxic/metabolic insult.  B12, TSH were within normal 
limits.  RPR negative.  Patient returned to baseline mental 
status, fully attentive and denies any hallucinations over the 
past several days. Upon resolution of acute encephalopathy, he 
continued to have difficulty ambulating compared to baseline, so 
he was discharged to short term rehabilitation.

# Acute renal failure:  Most recent baseline creatinine in our 
system was 1.2 in ___, and on admission, his creatinine was 
1.6.  Patient gave a history of poor PO intake, which was likely 
compounded by his confusional state.  He was given IV fluids and 
his creatinine improved from 1.6 to 1.2 and remained stable.

# Atrial fibrillation on warfarin: INR 1.6 on arrival.  Warfarin 
restarted, INR 2.1 on ___, 2.7 on ___. 2.4 on ___. 2.7 on 
___.  No rate-control agents given tachy/brady syndrome

# Hypertension:  Start thiazide, check chemistry panel in 7 days 
at rehab

# Hyperlipidemia: we continued his home Pravastatin during his 
admission 

# Benign prostatic hypertrophy: we continued home terazosin 
during his admission 

TRANSITIONAL ISSUES
- F/u blood pressure control and check chemistry panel within 7 
days of discharge; started on a thiazide diuretic for 
hypertension
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Flecainide Acetate 50 mg PO Q12H 
2. Warfarin 4 mg PO DAILY16 
3. Pravastatin 20 mg PO QPM 
4. RABEprazole 20 mg oral DAILY 
5. Terazosin 5 mg PO QHS 
6. Vitamin D ___ UNIT PO DAILY 
7. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS glaucoma 
 

 
Discharge Medications:
1.  Chlorthalidone 12.5 mg PO DAILY 
RX *chlorthalidone 25 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*15 Tablet Refills:*0 
2.  Miconazole Powder 2% 1 Appl TP QID 
RX *miconazole nitrate [Anti-Fungal] 2 % apply to affected area 
in the groin four times a day Refills:*0 
3.  Flecainide Acetate 50 mg PO Q12H  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
glaucoma   
5.  Pravastatin 20 mg PO QPM  
6.  RABEprazole 20 mg oral DAILY  
7.  Terazosin 5 mg PO QHS  
8.  Vitamin D ___ UNIT PO DAILY  
9.  Warfarin 4 mg PO DAILY16  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Acute encephalopathy 
Acute renal failure
Gait instability
Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for altered mental status from ___ 
to ___. We do not believe that your presentation was due to a 
stroke or a brain bleed given the imaging of your brain by MRI 
and non-contrast and contrast CT scans. It is unlikely that 
underlying infectious process was the cause of your presentation 
based on the blood and urine testing we conducted. We did 
provide you with medication to assist with your constipation. We 
encourage you to keep a well-balanced diet with fruits, 
vegetables, with plenty of fluids, and encourage you to make use 
of the meal plan at your ___ living facility. You should 
also continue to use your walker at home. We strongly recommend 
that you ___ with your PCP and ___ in one week. 

It was a pleasure taking care of you during your admission. We 
wish you all the best.

Your ___ team
 
Followup Instructions:
___